US09278915B2
Compound 114: 3-{6-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]pyridin-3-yl}propanoic acid
To a stirring solution of ethyl 3-{6-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]pyridin-3-yl}propanoate (0.03 g, 0.067 mmol) in the mixture of THF and Ethanol was added aqueous NaOH (0.03 g, 0.067 mmol) at 0° C., then stirred at RT for 2 h. After the completion of the SM reaction mass was concentrated under vacuum at 25° C. to remove solvents and diluted with water. Aqueous portion was neutralized with citric acid up to neutral pH, then extracted with ethyl acetate organic layer was washed with water and brine, dried over Na2SO4 and concentrated. Crude product was purified by preparative TLC to afford colourless oil as product (0.01 g, Yield: 35%); purity: 85%.

reactant | ethyl 3-{6-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]pyridin-3-yl}propanoate | 0.067 mmol, 0.03 g | CO\N=C(/COC1=CC=C(COC2=CC=C(C=N2)CCC(=O)OCC)C=C1)\C1=CC=CC=C1 | C26H28N2O5
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 0.067 mmol, 0.03 g | [OH-].[Na+]
solvent | Ethanol | C(C)O | C2H6O
product | 3-{6-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]pyridin-3-yl}propanoic acid | Yield: 35% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=N2)CCC(=O)O)C=C1)\C1=CC=CC=C1 | C24H24N2O5
